US05587504
A mixture comprising 10 g (43.1 mmol) of 2-amino-5-bromo-4-methyl-3-nitropyridine and 6.8 g of pyridine was heated to 110° C. in a nitrogen atmosphere. 5.7 g (47.4 mmol) of valeroyl chloride was dropwise added thereto and the mixture was stirred at 110° C. for 5 hours. The reaction mixture was brought to room temperature, followed by the addition of methylene chloride (50 ml) and water (50 ml). The organic phase was separated. The aqueous phase was further extracted with methylene chloride (50 ml). The organic phases were combined, dried over anhydrous magnesium sulfate and subjected to vacuum concentration to give a crude crystal. It was recrystallized from ethyl acetate to give 11 g of 2-valerylamino-5-bromo-4-methyl-3-nitropyridine (yield 81%).

reactant | 2-amino-5-bromo-4-methyl-3-nitropyridine | 43.1 mmol, 10 g | NC1=NC=C(C(=C1[N+](=O)[O-])C)Br | C6H6BrN3O2
reactant | pyridine | 6.8 g | N1=CC=CC=C1 | C5H5N
reactant | valeroyl chloride | 47.4 mmol, 5.7 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 2-valerylamino-5-bromo-4-methyl-3-nitropyridine | 11 g, yield 81% | C(CCCC)(=O)NC1=NC=C(C(=C1[N+](=O)[O-])C)Br | C11H14BrN3O3
